US09085583B2
To a solution of tert-butyl 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (100 mg, 0.29 mmol) in CH2Cl2 (2 mL) were added CF3CO2H (2 mL). The solution was stirred at 25° C. for 2 h. After the reaction completed, the solution was concentrated under reduced pressure to obtain 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid as red oil. (87 mg, yield 99%).

reactant | tert-butyl 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.29 mmol, 100 mg | C1(CC1)C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)OC | C20H28N2O3
reactant | CF3CO2H | 2 mL | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-cyclopropyl-1-methoxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | yield 99% | C1(CC1)C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)O)C)OC | C16H20N2O3
